US09062092B2
Compound 48b. Ethyl 5-acetyl-1,3-dioxane-5-carboxylate
A solution of ethyl 2,2-bis(hydroxymethyl)-3-oxobutanoate (75 g, 0.39 mol) and 40% formaldehyde (360 mL) in concentrated hydrochloric acid (360 mL) was heated at 50° C. for 17 h. The two-phase solution was cooled to room temperature and extracted with ethyl acetate (2×200 mL). The combined organic phases were washed with water, dried over magnesium sulfate, and evaporated to give a residue, which was purified by flash column chromatography eluting with a continuous gradient of petroleum ether/ethyl acetate 15:1 to 9:1 to afford the title compound (33 g, 14%, 2 steps) as a colorless oil. 1H NMR (400 MHz, CDCl3) δ 1.25 (m, 3H), 2.31 (s, 3H), 4.25-4.19 (m, 4H), 4.35 (d, J=12.0 Hz, 2H), 4.77 (d, J=6.0 Hz, 1H), 4.82 (d, J=6.0 Hz, 1H).

reactant | ethyl 2,2-bis(hydroxymethyl)-3-oxobutanoate | 0.39 mol, 75 g | OCC(C(=O)OCC)(C(C)=O)CO | C8H14O5
reactant | formaldehyde | 360 mL | C=O | CH2O
solvent | hydrochloric acid | 360 mL | Cl | ClH
product | Ethyl 5-acetyl-1,3-dioxane-5-carboxylate | 33 g, 14% | C(C)(=O)C1(COCOC1)C(=O)OCC | C9H14O5
